US04209626
α-Formyl-3-(trifluoromethyl)benzeneacetonitrile
To a slurry of 30.0 g. of sodium methoxide in 1200 ml. of toluene and 43.4 g. of ethyl formate is added dropwise with stirring 98.75 g. of 3-(trifluoromethyl)benzeneacetonitrile in 75 ml. of toluene over a 10 minute period. The temperature of the mixture rises to 35° C. and the mixture thickens. Stirring is continued for 2 hours and then one liter of water is added. The aqueous layer is acidified and a precipitate is formed by scratching to give 85.0 g. of the product of the Example as a white solid, m.p. 103°-106.5° C.

reactant | sodium methoxide | C[O-].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | 3-(trifluoromethyl)benzeneacetonitrile | FC(C=1C=C(C=CC1)CC#N)(F)F | C9H6F3N
solvent | water | one liter | O | H2O
product | α-Formyl-3-(trifluoromethyl)benzeneacetonitrile | C(=O)C(C#N)C1=CC(=CC=C1)C(F)(F)F | C10H6F3NO
